US05489593
1-[3-(1-Methylethylamino)-2-pyrazinyl]-1,4-diazepine (II)
Following the general procedure of PREPARATION 24 and making non-critical variations but starting with homopiperazine (2.46 g) and 2-chloro-3-(1-methylethyl)aminopyrazine (PREPARATION 23), the title compound is obtained, NMR (300 MHz, CDCl3) 7.56, 7.34, 4.75, 4.04, 3.28-3.18, 3.00-2.94, 1.79, and 1.15 δ.

reactant | homopiperazine | 2.46 g | N1CCNCCC1 | C5H12N2
reactant | 2-chloro-3-(1-methylethyl)aminopyrazine | ClC1=NC=CN=C1NC(C)C | C7H10ClN3
product | 1-[3-(1-Methylethylamino)-2-pyrazinyl]-1,4-diazepine | CC(C)NC=1C(=NC=CN1)N1C=CN=CC=C1 | C12H15N5
